US08486953B2
4-(4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide
To a stirred suspension of 4-[4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (0.5 g, 1.24 mmol) in THF/DMF (9.0 mL; 8:1) was added oxalyl chloride (0.33 mL, 3.7 mmol) and the mixture stirred for 18 hours. The solvent was concentrated and the residue co-evaporated with toluene. To the residue was added a solution of ammonia in dioxane (0.5 M, 20 mL) and the mixture stirred for 18 hours. The reaction mixture was diluted with 10% MeOH in DCM (50 mL) and absorbed onto silica. The crude product was chromatographed by flash column chromatography (3% MeOH in DCM) to give the product as pale yellow solid (0.278 g, 55.7%).

reactant | 4-[4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 1.24 mmol, 0.5 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)OC2CCOCC2 | C19H18FN3O4S
reactant | oxalyl chloride | 3.7 mmol, 0.33 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | THF DMF | 9.0 mL | C1CCOC1.CN(C)C=O
product | 4-(4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide | 0.278 g, 55.7% | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)OC2CCOCC2 | C19H19FN4O3S
